US07956064B2
Methyl 4-oxo-4,5-dihydrothiazolo[4,5-c]quinoline-7-carboxylate (35 mg, 0.12 mmol) and LiOH (60 mg, 0.83 mmol) were stirred in a (1:1:1, v:v:v) mixture of THF, MeOH and water (0.6 ml) for 2 hours. 6N aqueous NaOH was added and the solution filtered through celite. The solution was acidified and the resulting solid filtered. Preparative HPLC purification and genevac evaporation provided 4-oxo-4,5-dihydrothiazolo[4,5-c]quinoline-7-carboxylic acid as a white solid (0.8 mg). LCMS (ES): 95% pure, m/z 247 [M+1]+.

reactant | Methyl 4-oxo-4,5-dihydrothiazolo[4,5-c]quinoline-7-carboxylate | 0.12 mmol, 35 mg | O=C1NC=2C=C(C=CC2C2=C1N=CS2)C(=O)OC | C12H8N2O3S
reactant | LiOH | 0.83 mmol, 60 mg | [Li+].[OH-]
reactant | THF | C1CCOC1 | C4H8O
reactant | NaOH | 6N | [OH-].[Na+]
solvent | water | 0.6 ml | O | H2O
solvent | MeOH | CO | CH4O
product | 4-oxo-4,5-dihydrothiazolo[4,5-c]quinoline-7-carboxylic acid | 0.8 mg | O=C1NC=2C=C(C=CC2C2=C1N=CS2)C(=O)O | C11H6N2O3S
